US04212830
12.0 gms of 9-chloro-nonaldehyde was heated at reflux with 20 gms of triethyl orthoformate, 9 gms anhydrous ethanol and one drop of concentrated sulphuric acid for one hour. The reaction was cooled, 10 gms of sodium carbonate was added and the mixture stirred 10 minutes. The mixture was diluted with 100 mls of diethyl ether and extracted twice with 50 mls of saline solution. The organic layer was dried over sodium sulphate, concentrated on rotary evaporator and distilled. The major fraction distilled at 84° at 0.1 torr yielding 13.3 gms of 1,1-diethoxy-9-chloro nonane. N.M.R. (CdCl3): triplet 4.47 ppm (1H), multiplet 3.58 ppm (6H), triplet 1.21 ppm.

reactant | 9-chloro-nonaldehyde | 12.0 gms | ClCCCCCCCCC=O | C9H17ClO
reactant | triethyl orthoformate | 20 gms | C(OCC)(OCC)OCC | C7H16O3
reactant | ethanol | 9 gms | C(C)O | C2H6O
reactant | sodium carbonate | 10 gms | C([O-])([O-])=O.[Na+].[Na+]
catalyst | sulphuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 100 mls | C(C)OCC | C4H10O
product | 1,1-diethoxy-9-chloro nonane | 13.3 gms | C(C)OC(CCCCCCCCCl)OCC | C13H27ClO2
